US05523280
4-Methylthio-3-(2-nitro-3-chlorophenyl)pyrazole (compound 147)
1.5 g (0.0061 mol) of 2'-nitro-3'-chloro-2-(methylthio)acetophenone are dissolved in 1.6 ml (0.012 mol) of N,N-dimethylformamide dimethyl acetal according to the procedure described in Example No. 1 and are heated at 70° C. and then, after isolation of the intermediate enaminone, are treated with 2 ml (0.042 mol) of hydrazine hydrate according to the procedure described in Example No. 1. After purification by passing through a silica column (heptane/ethyl acetate 75/25), 600 mg of the-desired compound are obtained:

reactant | 2'-nitro-3'-chloro-2-(methylthio)acetophenone | 0.0061 mol, 1.5 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)C(CSC)=O | C9H8ClNO3S
reactant | N,N-dimethylformamide dimethyl acetal | 0.012 mol, 1.6 ml | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine hydrate | 0.042 mol, 2 ml | O.NN
product | 4-Methylthio-3-(2-nitro-3-chlorophenyl)pyrazole | CSC=1C(=NNC1)C1=C(C(=CC=C1)Cl)[N+](=O)[O-] | C10H8ClN3O2S
